* Schematics Netlist *



R_R4         0 $N_0001  1k  
R_R2         $N_0003 $N_0002  1k  
Q_Q1         $N_0003 $N_0004 $N_0001 Q2N2222
V_V1         $N_0002 0 10V
C_C3         $N_0005 $N_0003  10u  
C_C1         $N_0006 $N_0004  10u  
C_C2         0 $N_0001  10u  
R_R5         0 $N_0005  1k  
V_V2         $N_0006 0  AC 1V
+SIN 0V 10m 1k 0 0 0
R_R3         0 $N_0004  4.7k  
R_R1         $N_0004 $N_0002  10.5k  
